US04421744
Z-Gly-OH (25.2 g., 132 mM) was dissolved in DMF (300 ml.) and the solution was cooled to -10° C. N-methylmorpholine (14.8 ml., 132 mM) was added, followed by ethyl chloroformate (12.1 ml., 126 mM). After 3 minutes at -10° C., a solution of H-Phe-Leu-OBut (40.1 g., 120 mM) in DMF (100 ml.) was added, and the mixture was stirred at 0° C. overnight. The solvent was evaporated and the residue was dissolved in ethyl acetate (600 ml.) and washed successively with water (2×60 ml.), 2 N-aqueous potassium bicarbonate (3×60 ml.), and water (3×60 ml.). The solution was dried (MgSO4) and filtered. The solvent was evaporated to give Z-Gly-Phe-Leu-OBut.

reactant | Z-Gly-OH | 132 mM, 25.2 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | N-methylmorpholine | 132 mM, 14.8 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 126 mM, 12.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | H-Phe-Leu-OBut | 120 mM, 40.1 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C19H30N2O3
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Z-Gly-Phe-Leu-OBut | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C29H39N3O6
